simulator lang=spectre

global 0 vdd vss
include "./22nm_HP.pm"

vdd_I1 (vdd 0 ) vsource dc=0.8
vss_I1 ( vss 0 ) vsource dc=0


******************INVERTER SUBCIRCUIT***************
parameters L=22n Ln=L Wn=2*Ln k=1.293

subckt inv (out in)
m1 ( out in vdd vdd ) pmos l=L w=k*Wn
m2 ( out in vss vss ) nmos l=Ln w=Wn
ends inv

xinv1 ( 1 21 ) inv
xinv2 ( 2 1 ) inv
xinv3 ( 3 2 ) inv
xinv4 ( 4 3 ) inv
xinv5 ( 5 4 ) inv
xinv6 ( 6 5 ) inv
xinv7 ( 7 6 ) inv
xinv8 ( 8 7 ) inv
xinv9 ( 9 8 ) inv 
xinv10 ( 10 9 ) inv
xinv11 ( 11 10 ) inv 
xinv12 ( 12 11 ) inv 
xinv13 ( 13 12 ) inv 
xinv14 ( 14 13 ) inv
xinv15 ( 15 14 ) inv
xinv16 ( 16 15 ) inv
xinv17 ( 17 16 ) inv
xinv18 ( 18 17 ) inv
xinv19 ( 19 18 ) inv
xinv20 ( 20 19 ) inv 
xinv21 ( 21 20 ) inv

TRANSIENT tran stop=3n maxstep=1p method=trap skipdc=yes
ic 1=0.8

simulator lang=spice


.MEASURE TRAN tphl
+ TRIG V(1) VAL=0.4 FALL=5
+ TARG V(2) VAL=0.4 RISE=5

.MEASURE TRAN tplh
+ TRIG V(1) VAL=0.4 FALL=5
+ TARG V(2) VAL=0.4 RISE=5

.MEASURE TRAN time_period
+ TRIG V(1) VAL=0.4 RISE=5
+ TARG V(1) VAL=0.4 RISE=6

simulator lang=spectre

print tplh
print tphl
print time_period
